US09278910B2
Prepared using General Procedure 7: To 2-(4-methoxy-2-(trifluoromethyl)phenyl)acetic acid (299 mg, 1.28 mmol) in DCM (5 mL) and DMF (20 μL) was added oxalyl chloride (0.117 mL, 1.34 mmol). After stirring at room temperature for 30 min, 4-((4-amino-N-(2-(tert-butoxy)-2-oxoethyl)benzamido)methyl)phenyl 4-(heptyloxy)benzoate INT-4 (700 mg, 1.22 mmol) and TEA (0.424 mL, 3.05 mmol) in DCM (10 mL) were added. The reaction was stirred for 1 h then diluted with DCM (100 mL) and washed with NaHCO3 (100 mL). The crude product was purified by chromatography to provide 555 mg (58%) of 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)phenyl 4-(heptyloxy)benzoate INT-6. LCMS-ESI (m/z) calculated for C44H49F3N2O8: 791; no m/z observed, tR=3.28 min (Method 4).

reactant | 2-(4-methoxy-2-(trifluoromethyl)phenyl)acetic acid | 1.28 mmol, 299 mg | COC1=CC(=C(C=C1)CC(=O)O)C(F)(F)F | C10H9F3O3
reactant | oxalyl chloride | 1.34 mmol, 0.117 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-((4-amino-N-(2-(tert-butoxy)-2-oxoethyl)benzamido)methyl)phenyl 4-(heptyloxy)benzoate | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CN(C(C2=CC=C(C=C2)N)=O)CC(=O)OC(C)(C)C)C=C1 | C34H42N2O6
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 μL | CN(C)C=O | C3H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxy-2-(trifluoromethyl)phenyl)acetamido)benzamido)methyl)phenyl 4-(heptyloxy)benzoate | 555 mg, 58% | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CN(C(C2=CC=C(C=C2)NC(CC2=C(C=C(C=C2)OC)C(F)(F)F)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C44H49F3N2O8
